US07282499B2
A mixture of 4-(2-chloroethyl)-4,5,6,7-tetrahydro-1-(3,4-dichlorophenyl)-1H-indazole (235 mg, 0.71 mmol), K2CO3 (99 mg, 0.71 mmol), 4-phenylpiperidine (97 mg, 0.71 mmol) and a catalytic amount of K1 in 5 mL of DMF is heated to reflux during 18 hours. The solvent is eliminated at reduced pressure, the crude is diluted with ethyl acetate, washed with water, and the organic phase is evaporated at reduced pressure. The resultant crude is purified by chromatography on silica-gel to obtain 1-(3,4-dichlorophenyl)-4,5,6,7-tetrahydro-4-(2-(4-phenylpiperidin-1-yl)ethyl)-1H-indazole (146 mg, 0.32 mmol, 45%, oil).

reactant | 4-(2-chloroethyl)-4,5,6,7-tetrahydro-1-(3,4-dichlorophenyl)-1H-indazole | 0.71 mmol, 235 mg | ClCCC1C=2C=NN(C2CCC1)C1=CC(=C(C=C1)Cl)Cl | C15H15Cl3N2
reactant | K2CO3 | 0.71 mmol, 99 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-phenylpiperidine | 0.71 mmol, 97 mg | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-dichlorophenyl)-4,5,6,7-tetrahydro-4-(2-(4-phenylpiperidin-1-yl)ethyl)-1H-indazole | 0.32 mmol, 146 mg, 45% | ClC=1C=C(C=CC1Cl)N1N=CC=2C(CCCC12)CCN1CCC(CC1)C1=CC=CC=C1 | C26H29Cl2N3
